US04689426
0.2 ml of 30% aqueous hydrogen peroxide was added to a solution of 65 mg (190 micromol) of 4-(3-hydroxy-3-cyclopentyl-1-propenyl)-5-(6-methoxycarbonyl-2-hexenylidene)-2-cyclopentenone in 2 ml of methanol under ice cooling and stirring, and then 50 microliters of 1N sodium hydroxide was added. The mixture was stirred at 0° C. for 20 minutes. A saturated aqueous solution of ammonium chloride was added, and the mixture was extracted with hexane. The organic layer was washed with a saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. The dried product was filtered and concentrated to give an oily product. The product was dissolved in 3 ml of acetone, and 0.5 ml of concentrated hydrochloric acid was added. The mixture was stirred for one hour. A saturated aqueous solution of sodium hydrogencarbonate was added, and the mixture was extracted with ethylacetate. The organic layer was washed with a saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. The dried product was filtered, concentrated and subjected to silica gel column chromatography (silica gel, 10 g; eluent, cyclohexane:ethylacetate=4:1) to give 27 mg (yield 38%) of 2-chloro-4-(3-hydroxy-3-cyclopentyl-1-propenyl)-5-(6-methoxycarbonyl-2-hexenylidene)-2-cyclopentenone.

reactant | hydrogen peroxide | 0.2 ml | OO | H2O2
reactant | 4-(3-hydroxy-3-cyclopentyl-1-propenyl)-5-(6-methoxycarbonyl-2-hexenylidene)-2-cyclopentenone | 190 micromol, 65 mg | OC(C=CC1C=CC(C1=CC=CCCCC(=O)OC)=O)C1CCCC1 | C21H28O4
reactant | sodium hydroxide | 1N, 50 microliters | [OH-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | hydrochloric acid | 0.5 ml | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 2 ml | CO | CH4O
solvent | acetone | 3 ml | CC(=O)C | C3H6O
product | 2-chloro-4-(3-hydroxy-3-cyclopentyl-1-propenyl)-5-(6-methoxycarbonyl-2-hexenylidene)-2-cyclopentenone | 27 mg, yield 38% | ClC=1C(C(C(C1)C=CC(C1CCCC1)O)=CC=CCCCC(=O)OC)=O | C21H27ClO4
